US04329367
The mixture of 11.1 g of dl-p-benzyloxyamphetamine hydrochloride, 11.2 g of 4,4-di-(4-fluorophenyl)-butyl chloride, 10.34 g of diisopropyl-ethylamine and 50 ml of dimethylformamide is stirred at 100° for 60 hours. It is evaporated, the residue taken up in benzene and the solution washed three times with water. The organic layer is dried, evaporated, the residue taken up in diethyl ether and the solution acidified with hydrogen chloride in isopropanol to afford the dl-1-(p-benzyloxyphenyl)-2-[4,4-di-(4-fluorophenyl)-butylamino]-propane hydrochloride, melting at 130°-133°.

reactant | p-benzyloxyamphetamine hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(CC(N)C)C=C1
reactant | 4,4-di-(4-fluorophenyl)-butyl chloride | 11.2 g | FC1=CC=C(C=C1)C(CCCCl)C1=CC=C(C=C1)F | C16H15ClF2
reactant | diisopropyl-ethylamine | 10.34 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(p-benzyloxyphenyl)-2-[4,4-di-(4-fluorophenyl)-butylamino]-propane hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C)NCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | InChI=1S/C32H33F2NO.ClH/c1-24(22-25-9-19-31(20-10-25)36-23-26-6-3-2-4-7-26)35-21-5-8-32(27-11-15-29(33)16-12-27)28-13-17-30(34)18-14-28;/h2-4,6-7,9-20,24,32,35H,5,8,21-23H2,1H3;1H
